US08168659B2
(±)-4-(3-Fluoro-phenyl)-N-(4-trifluoromethoxy-phenyl)-4-hydroxy-butyramide
Stir 4-(3-fluoro-phenyl)-N-(4-trifluoromethoxy-phenyl)-4-oxo-butyramide (3.0 g, 8.5 mmol) in ethanol (70 mL) at room temperature. Add sodium borohydride (650 mg, 17.2 mmol) portionwise and stir at room temperature until TLC indicates that no starting material remains. Add acetone to quench excess borohydride, concentrate the reaction mixture under reduced pressure, redissolve in ethyl acetate and wash with brine. Dry over anhydrous magnesium sulfate, evaporate under reduced pressure to give the titled compound (2.0 g, 67% yield) MS (m/z): 358(M+1).

reactant | 4-(3-fluoro-phenyl)-N-(4-trifluoromethoxy-phenyl)-4-oxo-butyramide | 8.5 mmol, 3.0 g | FC=1C=C(C=CC1)C(CCC(=O)NC1=CC=C(C=C1)OC(F)(F)F)=O | C17H13F4NO3
reactant | sodium borohydride | 17.2 mmol, 650 mg | [BH4-].[Na+]
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | (±)-4-(3-Fluoro-phenyl)-N-(4-trifluoromethoxy-phenyl)-4-hydroxy-butyramide | 2.0 g, 67% yield | FC=1C=C(C=CC1)C(CCC(=O)NC1=CC=C(C=C1)OC(F)(F)F)O | C17H15F4NO3
